US07776869B2
Step 2: 3-Methoxy-4-nitrophenol
4-Fluoro-2-methoxynitrobenzene (4.68 g, 27.4 mmol) was suspended in a 5M potassium hydroxide solution (50 ml) and heated to 90° C. for 5 h. The red solution was cooled to room temperature and acidified to pH 6 with 1M HCl. The aqueous solution was extracted three times with ethyl acetate and the combined organics were washed with brine and dried over sodium sulfate. Removal of the solvent under reduced pressure, followed by purification by flash column chromatography (1:1 hexane/ethyl acetate) afforded the title compound as a yellow solid.

reactant | 4-Fluoro-2-methoxynitrobenzene | 27.4 mmol, 4.68 g | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | HCl | 1M | Cl | ClH
reactant | potassium hydroxide | 5M, 50 ml | [OH-].[K+]
product | 3-Methoxy-4-nitrophenol | COC=1C=C(C=CC1[N+](=O)[O-])O | C7H7NO4
